US07163936B2
To a solution of allyl (4R,5S,6S)-3-({4-[(2S)-1-[(allyloxy)carbonyl]-2-(chloromethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1,3-thiazol-2-yl}sulfanyl)-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (54 mg, 0.083 mmol) in THF (4 ml) was added at 0° C. water (7 ml) and then the solution was adjusted to pH about 2 with 1N hydrochloric acid and stirred for 15 minutes. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution. The solution was adjusted to pH 7.5 and extracted twice with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the solvent in vacuo, the residue was dissolved in dichloromethane (2 ml). To the solution were added at 0° C. acetic acid (12 μl), tributyltin hydride (0.23 ml) and bis(triphenylphosphine)palladium chloride (5.8 mg, 0.014 mmol) and the mixture was stirred at the same temperature for 10 minutes. To the reaction mixture were added phosphate buffer (50 mM, pH7, 25 ml) and dichloromethane (20 ml). After separation of the aqueous layer, the dichloromethane layer was extracted with water and the aqueous layer was washed twice with dichloromethane (3 ml). The organic solvent in the aqueous layer was evaporated under reduced pressure, and the residue was purified by polymer chromatography (CHP-20P). The fractions eluted with an 1–3% aqueous THF solution were combined and lyophilized to give (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-({4-[(2S)-2-(chloromethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1,3-thiazol-2-yl}sulfanyl)-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (22.5 mg, 46%) as a white amorphous.

reactant | allyl (4R,5S,6S)-3-({4-[(2S)-1-[(allyloxy)carbonyl]-2-(chloromethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1,3-thiazol-2-yl}sulfanyl)-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.083 mmol, 54 mg | C(C=C)OC(=O)N1[C@@H](CC(=CC1)C=1N=C(SC1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC=C)CCl | C29H38ClN3O6S2Si
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | tributyltin hydride | 0.23 ml | C(CCC)[SnH](CCCC)CCCC
reactant | phosphate | 50 mM, 25 ml, pH7 | P(=O)([O-])([O-])[O-]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium chloride | 0.014 mmol, 5.8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | acetic acid | 12 μl | C(C)(=O)O | C2H4O2
solvent | water | 7 ml | O | H2O
product | (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-({4-[(2S)-2-(chloromethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1,3-thiazol-2-yl}sulfanyl)-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 22.5 mg, 46% | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)O)SC=1SC=C(N1)C=1C[C@H](NCC1)CCl)C | C19H22ClN3O4S2
